US05132424
B. 3-Amino-5-phenylpyrazole
Benzoyl acetonitrile from part A hereinabove (10.0 g, 68.9 mmole) and hydrazine monohydrate (4.34 mL, 89.6 mmole) were combined in 95% ethanol (90 mL) and refluxed for 1.5 hours. The solvent was evaporated under vacuum and the crystalline subtitled compound, residue was crystallized from chloroform (three crops, 9.49 g, 86%, m.p. 125°-126.5°, lit., m.p. 123°-125°, Taylor, E. C. et al., J. Org. Chem., (1966), 31, page 1818.

reactant | Benzoyl acetonitrile | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | hydrazine monohydrate | 89.6 mmole, 4.34 mL | O.NN
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 3-Amino-5-phenylpyrazole | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
